US09284271B2
1-(4-amino-3-iodophenyl)ethanone was prepared according to method D Step I with Iodine (2.82 g; 11.10 mmol) silver sulphate (3.46 g; 11.10 mmol) and 1-(4-aminophenyl)ethanone (1.50 g; 11.10 mmol) in ethanol (40 mL). The crude residue was purified by flash chromatography on silica gel (eluent 2 to 40% ethyl acetate in heptane) to yield 0.514 g (18%) of 1-(4-amino-3-iodophenyl)ethanone as a pale yellow solid.

reactant | Iodine | 11.10 mmol, 2.82 g | II | I2
reactant | 1-(4-aminophenyl)ethanone | 11.10 mmol, 1.50 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | silver sulphate | 11.10 mmol, 3.46 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 1-(4-amino-3-iodophenyl)ethanone | 0.514 g, 18% | NC1=C(C=C(C=C1)C(C)=O)I | C8H8INO
